US09353096B2
2-(2-Isopropylpyrimidin-4-yl)-morpholine-4-carboxylic acid tert-butyl ester (256 mg, 833 μmol) was dissolved in 5 mL of dichloromethane and TFA (2 mL) was added. The solution was stirred at room temperature for 2 h. The solvents were evaporated. The residue was extracted with dichloromethane and 1N NaOH solution. The organic layer was dried over Na2SO4 and concentrated. The residue was dried under vacuum to afford 2-(2-isopropylpyrimidin-4-yl)-morpholine (175 mg) as a colorless oil. (M+H)+=208 m/e.

reactant | 2-(2-Isopropylpyrimidin-4-yl)-morpholine-4-carboxylic acid tert-butyl ester | 833 μmol, 256 mg | C(C)(C)(C)OC(=O)N1CC(OCC1)C1=NC(=NC=C1)C(C)C | C16H25N3O3
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-(2-isopropylpyrimidin-4-yl)-morpholine | 175 mg | C(C)(C)C1=NC=CC(=N1)C1CNCCO1 | C11H17N3O
